* BVM Test: WL=BL=0.15mA, SE=0.12mA, WL_read=0.05mA
.include ../../circuits/bvm/bvm_cell.cir

XBVM1 WL1 BL1 SE1 SL1 BVM
B_SLload1 SL1 0 jj320 area=12

.param IW=150U
.param IR=120U
.param PRD=50U

I_WL1 0 WL1 pwl(0 0 5p 0
+ 10p  IW   30p  IW   35p  0
+ 55p  PRD  65p  PRD  70p  0
+ 150p -IW  170p -IW  175p  0
+ 195p PRD 205p PRD 210p 0
+ 220p 0)

I_BL1 0 BL1 pwl(0 0 5p 0
+ 10p  IW   30p  IW   35p  0
+ 55p  0    70p  0
+ 150p -IW  170p -IW  175p  0
+ 195p 0    210p 0
+ 220p 0)

I_SE1 0 SE1 pwl(0 0
+ 55p  0    60p  IR   70p  IR   75p  0
+ 195p 0    200p IR   210p IR   215p 0
+ 220p 0)

.tran 0.5p 200p 0 1p 0 DST
.print I(I_WL1) I(I_BL1) I(I_SE1)
.print V(B_JM1|XBVM1) P(B_JM1|XBVM1)
.print V(B_JM2|XBVM1)
.print I(B_JM1|XBVM1)
.print P(B_JS1|XBVM1) P(B_JS2|XBVM1)
.print I(B_SLload1)
.end
