* BVM Full Truth Table — 50GHz, WL=100μA for write AND read, no PRD
.include ../../circuits/bvm/bvm_cell.cir
XBVM1 WL1 BL1 SE1 SL1 BVM
B_SLload1 SL1 0 jj320 area=12

* WL: W1(10-20), HS-WL(50-60), Read1(90-100), Read1v(130-140)
*     W0(170-180), Read0(210-220), Read0v(250-260)
* Same 100μA used for write and read row selection
I_WL1 0 WL1 pwl(0 0 5p 0
+ 10p 100U  20p 100U  25p 0
+ 50p 100U  60p 100U  65p 0
+ 90p 100U 100p 100U 105p 0
+ 130p 100U 140p 100U 145p 0
+ 170p -100U 180p -100U 185p 0
+ 210p 100U 220p 100U 225p 0
+ 250p 100U 260p 100U 265p 0
+ 280p 0)

* BL: W1(10-20), BL-only HS(70-80), W0(170-180)
I_BL1 0 BL1 pwl(0 0 5p 0
+ 10p 100U  20p 100U  25p 0
+ 50p 0     65p 0
+ 70p 100U  80p 100U  85p 0
+ 90p 0    145p 0
+ 170p -100U 180p -100U 185p 0
+ 210p 0    280p 0)

* SE: Read pulses — 200μA, 10ps wide
I_SE1 0 SE1 pwl(0 0
+ 90p 0  95p 100U 105p 100U 110p 0
+ 130p 0 135p 100U 145p 100U 150p 0
+ 210p 0 215p 100U 225p 100U 230p 0
+ 250p 0 255p 100U 265p 100U 270p 0
+ 280p 0)

.tran 0.25p 280p 0 0.5p 0 DST
.print I(I_WL1) I(I_BL1) I(I_SE1)
.print V(B_JM1|XBVM1) P(B_JM1|XBVM1)
.print I(L_M1|XBVM1)
.print P(B_JS1|XBVM1) P(B_JS2|XBVM1)
.print I(B_SLload1)
.end
