* Frozen 2x1 BVM/BQ/CB/ACC/GAP topology.
* Match jjmit model used by bvm_0923/test_bvm.cir.
.model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
.include snapshot/sources/bvm_cell_0923.cir
.include snapshot/sources/BQ_0923.cir
.include snapshot/sources/CB_0923.cir
.include snapshot/sources/sJTL_0923.cir
.include stimulus.inc

XBVM1 WL1 BL1 SE1 BVM1_SL BVM
XBQ1 BVM1_SL QB1_OUT BQ
XCB1 QB1_OUT CB1_OUT CB
XACC1 CB1_OUT ACC1_OUT sJTL
XGAP1 ACC1_OUT GAP2_IN sJTL

XBVM2 WL2 BL2 SE2 BVM2_SL BVM
XBQ2 BVM2_SL QB2_OUT BQ
XCB2 QB2_OUT CB2_OUT CB
XACC2 CB2_OUT GAP2_IN sJTL

XGAP2 GAP2_IN FINAL_OUT sJTL
R_TERM FINAL_OUT 0 2

{{PRINTS}}
.tran 0.01p 200p 0p
.end
